### PR TITLE
[Merged by Bors] - feat: add AffineEquiv.ofLinearEquiv

### PR DESCRIPTION
**Pull request by jessealama**
Adds a constructor for building affine equivalences from linear equivalences and base points.

---

Extracted from #30854.

cc @Vierkantor @YaelDillies

### CODE REVIEW

**Review by YaelDillies — COMMENTED** [review]
Can you prove `ofLinearEquiv_refl`, `ofLinearEquiv_trans`?

File: Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean [hunk 1]
```diff
@@ -561,6 +561,25 @@ theorem pointReflection_fixed_iff_of_module [Invertible (2 : k)] {x y : P₁} :
     pointReflection k x y = y ↔ y = x :=
   ((injective_pointReflection_left_of_module k y).eq_iff' (pointReflection_self k y)).trans eq_comm
 
+/-- Construct an affine equivalence from a linear equivalence and two base points.
+
+Given a linear equivalence `A : V ≃ₗ[k] V` and base points `f₀ g₀ : P`, this constructs
+the affine equivalence `T x = A (x -ᵥ f₀) +ᵥ g₀`. This is the standard way to convert
+a linear automorphism into an affine automorphism with specified base point mapping. -/
+def ofLinearEquiv {k : Type*} {V : Type*} {P : Type*}
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean]:
```suggestion
def ofLinearEquiv {k : V P : Type*}
```
Same below. Even better would be to have these declared in a `variable` somewhere

File: Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean [hunk 2]
```diff
@@ -561,6 +561,25 @@ theorem pointReflection_fixed_iff_of_module [Invertible (2 : k)] {x y : P₁} :
...
+    [DivisionRing k] [AddCommGroup V] [Module k V] [AddTorsor V P]
+    (A : V ≃ₗ[k] V) (f₀ g₀ : P) : P ≃ᵃ[k] P :=
+  let linearAsAffine : V ≃ᵃ[k] V :=
+    { toEquiv := A.toEquiv, linear := A, map_vadd' := fun p v => A.map_add v p }
```
Comment (jsm28) [inline Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean]: I'd have expected a use of `A.toAffineEquiv` instead of this `let`.

**Comment by jessealama** [comment]
> Can you prove `ofLinearEquiv_refl`, `ofLinearEquiv_trans`?

Yes! I'm on it.

File: Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean (hunk 2 above)
Comment (jessealama) [reply Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean]: > I'd have expected a use of `A.toAffineEquiv` instead of this `let`.

We can do that. I'll put the new definition after `A.toAffineEquiv`.

**Comment by jessealama** [comment]
> Can you prove `ofLinearEquiv_refl`, `ofLinearEquiv_trans`?

Done!

**Comment by YaelDillies** [comment]
Did you forget to push? I don't see the lemmas 😅

File: Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean [hunk 3]
```diff
@@ -577,6 +577,43 @@ theorem coe_toAffineEquiv (e : V₁ ≃ₗ[k] V₂) : ⇑e.toAffineEquiv = e :=
...
+  (vaddConst k f₀).symm.trans (A.toAffineEquiv.trans (vaddConst k g₀))
+
+@[simp]
+theorem ofLinearEquiv_apply (A : V ≃ₗ[k] V) (f₀ g₀ : P) (x : P) :
+    ofLinearEquiv A f₀ g₀ x = A (x -ᵥ f₀) +ᵥ g₀ :=
+  rfl
+
+@[simp]
+theorem ofLinearEquiv_refl (p : P) :
+    ofLinearEquiv (LinearEquiv.refl k V) p p = AffineEquiv.refl k P := by
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean]:
```suggestion
    ofLinearEquiv (.refl k V) p p = .refl k P := by
```

File: Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean [hunk 4]
```diff
@@ -577,6 +577,43 @@ theorem coe_toAffineEquiv (e : V₁ ≃ₗ[k] V₂) : ⇑e.toAffineEquiv = e :=
...
+  ext x
+  simp [ofLinearEquiv_apply]
+
+theorem ofLinearEquiv_trans (A B : V ≃ₗ[k] V) (p₀ p₁ p₂ : P) :
+    (ofLinearEquiv A p₀ p₁).trans (ofLinearEquiv B p₁ p₂) =
+      ofLinearEquiv (A.trans B) p₀ p₂ := by
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean]:
```suggestion
@[simp]
theorem ofLinearEquiv_trans_ofLinearEquiv (A B : V ≃ₗ[k] V) (p₀ p₁ p₂ : P) :
    (ofLinearEquiv A p₀ p₁).trans (ofLinearEquiv B p₁ p₂) =
      ofLinearEquiv (A.trans B) p₀ p₂ := by
```

File: Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean [hunk 5]
```diff
@@ -577,6 +577,43 @@ theorem coe_toAffineEquiv (e : V₁ ≃ₗ[k] V₂) : ⇑e.toAffineEquiv = e :=
 
 end LinearEquiv
 
+namespace AffineEquiv
+
+section ofLinearEquiv
+
+variable {k V P : Type*}
+variable [DivisionRing k] [AddCommGroup V] [Module k V] [AddTorsor V P]
```
Comment (jsm28) [inline Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean]:
```suggestion
variable [Ring k] [AddCommGroup V] [Module k V] [AddTorsor V P]
```

Comment (jessealama) [reply Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean]: Ah, of course, thanks! Done.

**Comment by jessealama** [comment]
> Did you forget to push? I don't see the lemmas 😅

Ack, I may indeed have forgotten to push, but the lemmas are there now. Take another look?

File: Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean [hunk 6]
```diff
@@ -577,6 +577,44 @@ theorem coe_toAffineEquiv (e : V₁ ≃ₗ[k] V₂) : ⇑e.toAffineEquiv = e :=
...
+
+variable {k V P : Type*}
+variable [Ring k] [AddCommGroup V] [Module k V] [AddTorsor V P]
+
+/-- Construct an affine equivalence from a linear equivalence and two base points.
+
+Given a linear equivalence `A : V ≃ₗ[k] V` and base points `f₀ g₀ : P`, this constructs
+the affine equivalence `T x = A (x -ᵥ f₀) +ᵥ g₀`. This is the standard way to convert
+a linear automorphism into an affine automorphism with specified base point mapping. -/
+def ofLinearEquiv (A : V ≃ₗ[k] V) (f₀ g₀ : P) : P ≃ᵃ[k] P :=
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean]: Should this be
```suggestion
def ofLinearEquiv (A : V ≃ₗ[k] V) (p\0 p\1 : P) : P ≃ᵃ[k] P :=
```
for consistency? (apologies for lack of unicode)

File: Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean [hunk 7]
```diff
@@ -577,6 +577,44 @@ theorem coe_toAffineEquiv (e : V₁ ≃ₗ[k] V₂) : ⇑e.toAffineEquiv = e :=
...
+    ofLinearEquiv (.refl k V) p p = .refl k P := by
+  ext x
+  simp [ofLinearEquiv_apply]
+
+@[simp]
+theorem ofLinearEquiv_trans_ofLinearEquiv (A B : V ≃ₗ[k] V) (p₀ p₁ p₂ : P) :
+    (ofLinearEquiv A p₀ p₁).trans (ofLinearEquiv B p₁ p₂) =
+      ofLinearEquiv (A.trans B) p₀ p₂ := by
+  ext x
+  simp [ofLinearEquiv_apply, LinearEquiv.trans_apply]
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean]: Do you need to give those lemmas explicitly?
```suggestion
  simp
```
Why do you need the final `rfl`? What's the final goal?

Comment (jessealama) [reply Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean]: I added a `ofLinearEquiv_linear` simp lemma, which we need to make this step simply `simp`.

File: Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean (hunk 6 above)
Comment (jessealama) [reply Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean]: Done! I changed `f₀ g₀` to `p₀ p₁` for consistency.

File: Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean [hunk 8]
```diff
@@ -577,6 +577,48 @@ theorem coe_toAffineEquiv (e : V₁ ≃ₗ[k] V₂) : ⇑e.toAffineEquiv = e :=
...
+  (vaddConst k p₀).symm.trans (A.toAffineEquiv.trans (vaddConst k p₁))
+
+@[simp]
+theorem ofLinearEquiv_apply (A : V ≃ₗ[k] V) (p₀ p₁ : P) (x : P) :
+    ofLinearEquiv A p₀ p₁ x = A (x -ᵥ p₀) +ᵥ p₁ :=
+  rfl
+
+@[simp]
+theorem ofLinearEquiv_linear (A : V ≃ₗ[k] V) (p₀ p₁ : P) :
+    (ofLinearEquiv A p₀ p₁).linear = A :=
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean]: As we are currently discussing on Zulip,
```suggestion
theorem linear_ofLinearEquiv (A : V ≃ₗ[k] V) (p₀ p₁ : P) :
    (ofLinearEquiv A p₀ p₁).linear = A :=
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean (hunk 8 above)
Comment (jessealama) [reply Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean]: Thanks! Sometimes I'm not 100% clear on what to call things; any feedback is appreciated.

File: Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean [hunk 9]
```diff
@@ -577,6 +577,48 @@ theorem coe_toAffineEquiv (e : V₁ ≃ₗ[k] V₂) : ⇑e.toAffineEquiv = e :=
...
+@[simp]
+theorem ofLinearEquiv_refl (p : P) :
+    ofLinearEquiv (.refl k V) p p = .refl k P := by
+  ext x
+  simp [ofLinearEquiv_apply]
+
+@[simp]
+theorem ofLinearEquiv_trans_ofLinearEquiv (A B : V ≃ₗ[k] V) (p₀ p₁ p₂ : P) :
+    (ofLinearEquiv A p₀ p₁).trans (ofLinearEquiv B p₁ p₂) =
+      ofLinearEquiv (A.trans B) p₀ p₂ := by
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean:614]: our `trans` lemmas go in the reverse order and it would be called `ofLinearEquiv_trans`.

**Review by j-loreaux — COMMENTED** [review]
please fix, then merge (but wait for CI to finish first).

bors d+

File: Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean (hunk 9 above)
Comment (jessealama) [reply Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean:614]: Done!

**Comment by jessealama** [comment]
> please fix, then merge (but wait for CI to finish first).

Thanks! I'll take a look at the CI in the morning and merge if it's OK. Thanks for your help with this cc @YaelDillies @jsm28

File: Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean (hunk 9 above)
Comment (YaelDillies) [reply Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean:614]: @j-loreaux, in this instance I believe this was the correct direction because the direction you suggest cannot be simp (`p\_1` cannot be inferred). This is analogous to how we simplify two `eqToHom` composed together into a single one (although there is also the proof aspect there).

Comment (jessealama) [reply Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean:614]: > @j-loreaux, in this instance I believe this was the correct direction because the direction you suggest cannot be simp (`p\_1` cannot be inferred). This is analogous to how we simplify two `eqToHom` composed together into a single one (although there is also the proof aspect there).

Let me know what the best name should be. I'll wait for feedback from @j-loreaux before merging.

Comment (j-loreaux) [reply Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean:614]: I see. Okay, the way you had it is fine then.

Comment (jessealama) [reply Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean:614]: OK, I'll revert the change. Thanks for taking a look.
